* source 1
X_U1         0 N00635 N000032 N000033 N00698 uA741
V_V3         N00788 0  
+SIN 0 1 1k 0 0 0
R_R1         N00635 N00698  5.6k  
R_R2         N00788 N00635  1k  
V_V1         N000032 0 10
V_V2         0 N000033 10
