* source 2
V_V3         N01519 0  
+SIN 0 1 1k 0 0 0
X_U1         N01519 N00635 N001550 N002001 N00698 uA741
R_R1         N00635 N00698  5.6k  
R_R2         0 N00635  1k  
V_V1         N001550 0 10
V_V2         0 N002001 10
