* source 6
V_V1         N00113 0 4.5v
R_R1         N00113 N00143  33  
R_R2         N00143 N00170  33  
R_R3         0 N00143  1k  
R_R4         0 N00170  {R}  
.PARAM  R=1k
