* source 3
V_V1         N00127 0  
+PULSE 2 -2 0 1n 1n 15m 30m
C_C1         0 N00181  100n  
C_C2         N00127 N00181  10n  
R_R1         N00127 N00181  10k  
