* source 4
V_V1         N00149 0  
+PULSE 2 -2 0 1n 1n 10m 20m
C_C2         N00204 N00262  100n  
R_R2         0 N00262  10k  
R_R1         N00149 N00204  10k  
C_C1         0 N00204  100n  
