* source 1
V_V1         N00127 0  
+PULSE 2 -2 0 1n 1n 0.1m 0.2m
L_L1         N00127 N00182  18m  
C_C1         N00182 N00209  680p  
R_R1         0 N00209  4.7k  
