* source 3
V_V1         N00127 0  
+PULSE -2 2 0 1n 1n 0.1m 0.2m
L_L1         N00127 N00182  18m  
C_C1         N00182 N00209  680p  
R_R1         0 N00209  {r}  
.PARAM  r=1
