* source 4
V_V1         N00232 0  
+PULSE -2 2 0 1n 1n 0.5m 1m
C_C1         0 N00151  680p  
R_R1         N00286 N00151  0.8k  
L_L1         N00232 N00286  18m  
