* source 3
R_R1         N00119 N00153  1k  
R_R2         0 N00180  10k  
V_V1         N00119 0  
+PULSE 4 -4 0 1n 1n 0.25m 0.5m
C_C1         0 N00153  100n  
C_C2         N00153 N00180  100n  
