* source 4
R_R1         N00119 N00153  1k  
R_R2         0 N00180  10k  
C_C1         0 N00153  100n  
C_C2         N00153 N00180  100n  
V_V2         N00119 0 DC 0Vdc AC 1Vac 
