* source 4
C_C1         N00127 N00182  1u  
D_D1         N000830 N00182 D1N4001 
R_R1         0 N00182  100k  
V_V2         N00127 0  
+SIN 0 2 1k 0 0 0
V_V3         0 N000830 2
