* source 6
V_V1         N01476 0  
+SIN 0 10 1k 0 0 0
R_R2         N01476 N01955  1k  
D_D2         N01955 N01985 D1N4001 
D_D3         0 N01985 BZX84C3V0L 
