* source 1
M_M1         N000032 N00270 N000030 N000030 M2N7000
R_R2         N000032 N00181  1k  
R_R3         0 N000030  100  
V_V1         N00181 0 10
V_V2         N00270 0 0Vdc
