* source 2
V_V1         N00253 0 0Vdc
R_R6         N00627 N00621  100  
V_V2         N00194 0 10
M_M2         N00627 N00689 N006770 N006770 M2N7000
M_M1         N00224 N00253 N000470 N000470 M2N7000
R_R1         N00224 N00194  100  
R_R2         0 N000470  150  
R_R3         N00689 N00621  100k  
R_R4         0 N00689  122k  
V_V3         N00621 0 10
R_R5         0 N006770  150  
