* source ASDASD
V_V1         N00857 0  
+SIN 0 4 1000 0 0 0
R_R2         N00857 N00896  1meg  
D_D2         N008000 N00896 D1N4001 
V_V3         N008000 0 2
